US07709481B2
4.0 g 8-Bromo-5-methyl-quinoline and 1.69 g copper (I) cyanide were dissolved in 16 ml dimethylformamide and stirred at 200° C. for thirty minutes under microwave irradiation. The cooled reaction mixture was poured in 50 ml 2N HCL and extracted with 100 ml ethyl acetate. The organic layer was washed with 50 ml 2N HCl and 30 ml brine and then dried over MgSO4. The solvent was removed in vacuo. The resulting residue was purified on silica gel with the eluent n-heptane ethyl acetate=2:1 to obtain 3.0 g 8-Methyl-quinoline-5-carbonitrile.

reactant | 8-Bromo-5-methyl-quinoline | 4.0 g | BrC=1C=CC(=C2C=CC=NC12)C | C10H8BrN
reactant | copper (I) cyanide | 1.69 g | [Cu]C#N
reactant | dimethylformamide | 16 ml | CN(C=O)C | C3H7NO
product | 8-Methyl-quinoline-5-carbonitrile | 3.0 g | CC1=CC=C(C=2C=CC=NC12)C#N | C11H8N2
